2106-02-18 06:19:00 Physician Resident Progress Note
Chief Complaint: 59 y/o M w/ h/o CAD, s/p CABG w/ PPM/ICD prior knee
   replacement surgery now p/w MSSA lead infection and septic arthritis of
   the left knee.
   24 Hour Events:
   - a-line resited
   - ?ETT cuff leak, repositioned and maintained tidal volumes
 INVASIVE VENTILATION - START [**2106-2-17**] 02:01 PM
 ARTERIAL LINE - START [**2106-2-17**] 02:25 PM
 MULTI LUMEN - START [**2106-2-17**] 02:26 PM
 PAN CULTURE - At [**2106-2-17**] 05:00 PM
 ARTERIAL LINE - STOP [**2106-2-17**] 10:00 PM
 ARTERIAL LINE - START [**2106-2-17**] 10:00 PM
 FEVER - 102.5
F - [**2106-2-17**] 02:21 PM
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle pain;
   Last dose of Antibiotics:
   Nafcillin - [**2106-2-17**] 11:43 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2106-2-17**] 08:54 PM
   Fentanyl - [**2106-2-17**] 08:54 PM
   Famotidine (Pepcid) - [**2106-2-17**] 11:43 PM
   Heparin Sodium (Prophylaxis) - [**2106-2-17**] 11:43 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-2-18**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**07**] AM
   Tmax: 39.2
C (102.5
   Tcurrent: 38.2
C (100.8
   HR: 72 (72 - 85) bpm
   BP: 107/49(65) {98/44(59) - 152/72(95)} mmHg
   RR: 18 (15 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    585 mL
                                                                    881 mL
   PO:
             TF:
   IVF:
                                                                    585 mL
                                                                    881 mL
   Blood products:
   Total out:
                                                                    515 mL
                                                                    230 mL
   Urine:
                                                                    505 mL
                                                                    230 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                     70 mL
                                                                    651 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 650 (650 - 750) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   SpO2: 97%
   ABG: 7.41/49/135/31/5
   Ve: 12.3 L/min
   PaO2 / FiO2: 338
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), harsh S2
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , Crackles : bases), anterior exam
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   223 K/uL
   8.7 g/dL
   115 mg/dL
   1.3 mg/dL
   31 mEq/L
   4.2 mEq/L
   25 mg/dL
   113 mEq/L
   150 mEq/L
   27.8 %
   5.8 K/uL
        [image002.jpg]
                             [**2106-2-17**]  03:43 PM
                             [**2106-2-17**]  04:25 PM
                             [**2106-2-17**]  07:09 PM
                             [**2106-2-17**]  11:22 PM
                             [**2106-2-18**]  02:32 AM
                             [**2106-2-18**]  05:09 AM
                             [**2106-2-18**]  05:39 AM
   WBC
   6.8
   5.8
   Hct
   28.1
   27.8
   Plt
   243
   223
   Cr
   1.3
   TCO2
   33
   33
   32
   32
   32
   Glucose
   94
   85
   115
   Other labs: PT / PTT / INR:14.9/25.8/1.3, ALT / AST:45/86, Alk Phos / T
   Bili:281/1.8, Differential-Neuts:74.0 %, Band:2.0 %, Lymph:15.0 %,
   Mono:3.0 %, Eos:3.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL,
   LDH:255 IU/L, Ca++:8.0 mg/dL, Mg++:2.5 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR: ETT 6cm above carina, ICD leads in place, hilar
   congestion
   Microbiology: [**2106-2-17**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2106-2-17**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   INPATIENT
   [**2106-2-17**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   UA nit neg, leuk neg
   Assessment and Plan
   59 y/o M w/ h/o CAD, s/p CABG w/ PPM/ICD prior knee replacement surgery
   now p/w MSSA lead infection and septic arthritis of the left knee.
   .
   # MSSA Bacteremia/Vegetation on Pacer wire/Septic Arthritis: Cr
   elevated on admission to NEBH prompting treatment with high dose
   CTX/daptomycin.  Patient is persistently febrile, however, with
   persistent bacteremia through [**2-16**] and Cr has improved suggesting that
   it would now be reasonable to opt for more standard therapy with
   nafcillin/gent/rifampin.  At this point, will add nafcillin, but will
   hold on gent/rifampin and discuss with ID regarding timing of adding
   those therapies as well as duration of therapy.
   - NPO for lab Thursday
   - Nafcillin
   - hold rifampin and gent for now
   - daily cultures while febrile
   - ID consult appreciated
   - Ortho consult prn for knee
   - careful joint exam when off sedation for other possible sites of
   infection
   .
   # CORONARIES:  The patient has a history of CAD s/p CABG and PCI with
   stent placement.  Anatomy as above.
   - Continue statin, aspirin, toprol XL
   .
   # PUMP:  EF 30-40%.  Mild decompensated CHF by exam/imaging.  No
   immediate plan to extubate as going to the lab tomorrow.
   - consider IV lasix tomorrow
   .
   # RHYTHM: History of A. Fib on coumadin and OSH ECG's suggest possible
   a. flutter.  Patient at high risk for systemic embolization given
   septic knee, high grade bacteremia, although most likely source for
   emboli is the lungs.  As such, would hold anticoagulation with heparin
   gtt for now and monitor on tele.
   - hold heparin gtt and consider head CT prior to initiating heparin
   - metoprolol 100mg [**Hospital1 **]
   - check digoxin level and if not elevated restart home dose as Cr now
   baseline.
   .
   # Respiratory Failure: Likely needs mild volume optimization before can
   be safely extubated.
   - daily wean of sedation.
   - Consider Chest CT for e/o septic emboli to the lungs and staph
   pneumonia if respiratory status worsens, or have difficulty with
   extubation.
   .
   # OSA: Intubated, will need home CPAP s/p extubation.
   .
   # Depression: hold welbutrin and amitriptyline for now.
   - restart prn.
   .
   # Gout: on allopurinol.
   .
   # HTN: continue on metoprolol.
   .
   # Hyperlipidemia: Continue home medications.
   ICU Care
   Nutrition:
   Comments: NPO p MN
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2106-2-17**] 02:26 PM
 need to resite CVL
   Arterial Line - [**2106-2-17**] 10:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2106-02-19 08:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 102.1
F - [**2106-2-18**] 09:00 AM
   - OSH MICRO Obatined
   - Need to follow up 2/22 Sputum Culture - GNR and [**2-16**] & [**2-17**] Blood
   cultures at [**Hospital1 904**]. Blood Cx [**2-17**] NGTD, [**2-16**] with GPCs - currently 1
   bottle CoNS and 1 bottle unspeciated. If 2 bottles CoNS may need to
   treat, micro lab will run sensitivities.
   - Called [**Hospital1 1097**] to add on rifampin sensi from synovial fluid -
   sensitive, report in chart.
   - ID recommends cont nafcillin for now
   - received 2L D5W for hypernatremia yesterday w >8L free water deficity
   - responded well to IV lasix yesterday, kept I/Os even
   - Central venous IJ placed on left to replace one done on right at OSH
   - in left brachiocephalic but unable to advance further (at hub
   already).  [**Month (only) 11**] require replacement with longer line.
   - patient became awake, extremely agitated overnight.  Sedation
   increased.
   - OG tube placed, unable to visualize past diaphragm on chest x-ray and
   multiple abdominal x-rays.  Able to here gastric bubble and some
   apparent bile return, but did not want to give free water through tube
   due to potential risk of tube in lungs.
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle pain;
   Last dose of Antibiotics:
   Nafcillin - [**2106-2-19**] 05:15 AM
   Infusions:
   Midazolam (Versed) - 4.5 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2106-2-18**] 09:30 PM
   Heparin Sodium (Prophylaxis) - [**2106-2-19**] 12:00 AM
   Furosemide (Lasix) - [**2106-2-19**] 12:30 AM
   Midazolam (Versed) - [**2106-2-19**] 03:05 AM
   Fentanyl - [**2106-2-19**] 03:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-2-19**] 08:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**07**] AM
   Tmax: 38.9
C (102.1
   Tcurrent: 38.5
C (101.3
   HR: 89 (66 - 94) bpm
   BP: 116/45(63) {104/45(62) - 160/75(102)} mmHg
   RR: 18 (17 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  4,124 mL
                                                                  1,997 mL
   PO:
             TF:
   IVF:
                                                                  3,884 mL
                                                                  1,997 mL
   Blood products:
   Total out:
                                                                  4,350 mL
                                                                  1,675 mL
   Urine:
                                                                  4,350 mL
                                                                  1,675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -226 mL
                                                                    322 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 650 (650 - 650) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10, Agitated
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.45/47/154/35/8
   Ve: 11.7 L/min
   PaO2 / FiO2: 385
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, opens eyes to
   command but does not move extremities to command
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), harsh S2
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , Crackles : bases), anterior exam
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace ; Left knee w stitches in place, mildly swollen knee but
   not erythematous
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli;
   Labs / Radiology
   269 K/uL
   9.2 g/dL
   153 mg/dL
   1.6 mg/dL
   35 mEq/L
   4.0 mEq/L
   29 mg/dL
   110 mEq/L
   150 mEq/L
   29.7 %
   7.6 K/uL
        [image002.jpg]
                             [**2106-2-17**]  04:25 PM
                             [**2106-2-17**]  07:09 PM
                             [**2106-2-17**]  11:22 PM
                             [**2106-2-18**]  02:32 AM
                             [**2106-2-18**]  05:09 AM
                             [**2106-2-18**]  05:39 AM
                             [**2106-2-18**]  08:04 PM
                             [**2106-2-18**]  08:48 PM
                             [**2106-2-19**]  04:29 AM
                             [**2106-2-19**]  04:48 AM
   WBC
   5.8
   7.6
   Hct
   27.8
   29.7
   Plt
   223
   269
   Cr
   1.5
   1.6
   1.6
   TCO2
   33
   33
   32
   32
   32
   36
   34
   Glucose
   85
   121
   115
   113
   153
   Other labs: PT / PTT / INR:15.6/25.8/1.4, CK / CKMB /
   Troponin-T:758/3/0.04, ALT / AST:45/86, Alk Phos / T Bili:281/1.8,
   Differential-Neuts:55.0 %, Band:1.0 %, Lymph:32.0 %, Mono:4.0 %,
   Eos:4.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:255 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.5 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   59 y/o M w/ h/o CAD, s/p CABG w/ PPM/ICD prior knee replacement surgery
   now p/w MSSA lead infection and septic arthritis of the left knee.
   # MSSA Bacteremia/Vegetation on Pacer wire/Septic Arthritis:
   Cr elevated on admission to NEBH prompting treatment with high dose
   CTX/daptomycin.  Patient is persistently febrile, however, with
   persistent bacteremia through [**2-16**] and Cr has improved suggesting that
   it would now be reasonable to opt for more standard therapy with
   nafcillin/gent/rifampin.  At this point, will add nafcillin, but will
   hold on gent/rifampin and discuss with ID regarding timing of adding
   those therapies as well as duration of therapy.  Ortho consulted
   yesterday.  Knees do not appear warm or swollen.  Coag Neg staph also
   grown in blood cultures at OSH.
   - Continue Nafcillin, per ID recs
   - start Vancomycin for Coag Neg staph ; ask ID whether should continue
   both Nafcillin and Vanc once Vanc trough appropriate
   - Wound Care for knee, per Ortho Recs
   - if knee worsens or looks infected in next 24-48 hours, call Ortho
   again b/c of possibility of another nidus of infection
   - TEE to look for valve vegetations as another nidus of infection
   - hold rifampin and gent for now
   - daily cultures while febrile
   - ID consult appreciated
   # Respiratory Failure, s/p Intubation:
   Day#5 of Intubation.  Barriers to extubation include mental status,
   extreme agitation, and high level of PEEP required.  Appears to be
   ventilating well.  Diuresed yesterday to keep even
   - gentle diuresis as needed
   - decreased sedation to evaluate mental status and attempt pressure
   support trial
   - slowly decrease PEEP so as not to derecruit alveoli
   - Consider Chest CT for e/o septic emboli to the lungs and staph
   pneumonia if respiratory status worsens, or have difficulty with
   extubation.
   .
   # Chronic Systolic CHF:
   EF 30-40%. JVP difficult to assess; CXR shows mild fluid overload prior
   to lasix dose last night
   - gentle diuresis today as needed
   .
   # Hx Atrial Fibrillation:  On coumadin at home and OSH ECG's suggest
   possible A. flutter.  Patient at high risk for systemic embolization
   given septic knee, high grade bacteremia, although most likely source
   for emboli is the lungs.  As such, would hold anticoagulation with
   heparin gtt for now and monitor on tele.  Has history of conversion
   pauses, and had low EF and risk of VT (though no VT hx), for which he
   received pacemaker/ICD, so should monitor for these arrhythmias.
   - continue to monitor on telemetry
   - hold heparin gtt , and get Head MRI (if he fits into machine) prior
   to initiating heparin
   - metoprolol 100mg [**Hospital1 **]
   - continue home digoxin
   # Hypernatremia:
   Persists.  Has about 8L free water deficit.
   - replete IV and PO per OG tube if we can place OG tube again and
   confirm placement
   # CAD:  The patient has a history of CAD s/p CABG and PCI with stent
   placement.  Anatomy as above.
   - Continue statin, aspirin, toprol XL
   # OSA: Intubated, will need home CPAP s/p extubation.
   # Depression: hold wellbutrin and amitriptyline for now.
   - restart prn, post extubation.
   # Gout: on allopurinol.
   # HTN: continue on metoprolol.
   # Hyperlipidemia: Continue home medications.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2106-2-17**] 10:00 PM
   20 Gauge - [**2106-2-18**] 12:23 PM
   Multi Lumen - [**2106-2-18**] 07:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  CCU
 will transfer care to MICU attending but continued
   care under CCU Housestaff team

2106-02-20 12:01:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present Dr. [**Last Name (STitle) 11261**]
   for key portions of the services provided.
   HPI:
   59M with morbid obesity, osa, low ef, aicd, cad s/p cabg, ckd, recent
   mssa septic arthritis, aicd vegitation s/p explant, intubated since
   [**2-11**], txr from ccu to micu for vent management. Barried to extubation
   has been poor mental status and high PEEP requirement:
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2106-2-19**] 10:00 AM
 EKG - At [**2106-2-19**] 11:57 PM
 FEVER - 101.4
F - [**2106-2-19**] 02:00 PM
   -tee yesterday density in right atrium:
freely mobile mass associated
   with a catheter in the right atrium suggestive of vegetation or
   thrombus
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle pain;
   Last dose of Antibiotics:
   Vancomycin - [**2106-2-20**] 08:45 AM
   Nafcillin - [**2106-2-20**] 10:00 AM
   Infusions:
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2106-2-20**] 08:45 AM
   Heparin Sodium (Prophylaxis) - [**2106-2-20**] 08:45 AM
   Other medications:
   vanco, thiamine, famotidine, nortrip, dig, colace, nafcilllin, fent
   200, metopr 100 [**Hospital1 **], versed off, symbalta, zetia, allopur, chlorhex,
   riss, nac, propofol, free water
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Heme / Lymph: No(t) Lymphadenopathy
   Psychiatric / Sleep: Agitated, Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2106-2-20**] 11:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**07**] AM
   Tmax: 38.6
C (101.4
   Tcurrent: 36.6
C (97.9
   HR: 77 (61 - 95) bpm
   BP: 138/68(88) {89/63(72) - 149/72(94)} mmHg
   RR: 14 (11 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  9,113 mL
                                                                  1,742 mL
   PO:
             TF:
   IVF:
                                                                  8,123 mL
                                                                    962 mL
   Blood products:
   Total out:
                                                                  3,075 mL
                                                                    765 mL
   Urine:
                                                                  3,075 mL
                                                                    765 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,038 mL
                                                                    977 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 650) mL
   Vt (Spontaneous): 852 (852 - 852) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 17
   RSBI Deferred: PEEP > 10
   PIP: 13 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: 7.38/56/87.[**Numeric Identifier 274**]/33/5
   Ve: 8.4 L/min
   PaO2 / FiO2: 220
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, No(t) NG tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), RRR
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Scattered crackles b/l : )
   Abdominal: Soft, Non-tender, Obese
   Extremities: 2+ edema b/l
   Skin:  Warm
   Neurologic: Opens eyes to voice, following some commands
   Labs / Radiology
   8.2 g/dL
   260 K/uL
   100 mg/dL
   1.5 mg/dL
   33 mEq/L
   3.3 mEq/L
   26 mg/dL
   106 mEq/L
   145 mEq/L
   26.7 %
   6.8 K/uL
        [image002.jpg]
                             [**2106-2-18**]  05:39 AM
                             [**2106-2-18**]  08:04 PM
                             [**2106-2-18**]  08:48 PM
                             [**2106-2-19**]  04:29 AM
                             [**2106-2-19**]  04:48 AM
                             [**2106-2-19**]  06:32 PM
                             [**2106-2-19**]  06:58 PM
                             [**2106-2-20**]  02:43 AM
                             [**2106-2-20**]  02:48 AM
                             [**2106-2-20**]  09:08 AM
   WBC
   7.6
   6.8
   Hct
   29.7
   26.7
   Plt
   269
   260
   Cr
   1.6
   1.6
   1.5
   1.5
   TCO2
   32
   36
   34
   35
   33
   34
   Glucose
   115
   113
   153
   146
   100
   Other labs: PT / PTT / INR:15.6/25.8/1.4, CK / CKMB /
   Troponin-T:758/3/0.04, ALT / AST:70/104, Alk Phos / T Bili:264/4.0,
   Amylase / Lipase:/57, Differential-Neuts:55.0 %, Band:1.0 %, Lymph:32.0
   %, Mono:4.0 %, Eos:4.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.7 g/dL,
   LDH:269 IU/L, Ca++:8.0 mg/dL, Mg++:2.5 mg/dL, PO4:3.0 mg/dL
   Imaging: cxr: ETT just above clavicles; bibasilar opacities
   Microbiology: pending
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERNATREMIA (HIGH SODIUM)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   59M with morbid obesity, osa, low ef, aicd, cad s/p cabg, ckd, recent
   mssa septic arthritis, aicd vegitation s/p explant, intubated since
   [**2-11**], txr from ccu to micu for vent management. Barriers to extubation
   has been poor mental status and high PEEP requirement. Seems to be much
   improved by this morning without agitation:
   Resp failure
   -wean sedation with goal of extubation today
 will confirm that
   further intervention (eg change of CVL) not required.
   -difficult intubation noted
   - consider extubating to NIPPV
   Delta MS
   [**Name13 (STitle) 11260**] when off sedation
   Liver dysfunction?
   -recheck LFTs today
   -will need abd u/s
   Bacteremia / ?foreign body, with fevers:  will touch base with ID; at
   time of echo had had RIJ and pacers had been removed and new IJ had
   just been placed
 ?fibrin sheath, less likely to be new vegetation or
   thrombus on new CVL.  On antibiotics, anticoagulated.
   Abd pain: ?improved
   -review abd ct, consider abd u/s
   AFIB
   -restart heparin gtt given ok head ct
   -cont rate control
   ICU Care
   Nutrition: hold given possible extubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2106-2-17**] 10:00 PM
   Multi Lumen - [**2106-2-18**] 07:07 PM
  continue to reassess need for
   central access
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 minutes
   Patient is critically ill

2106-02-21 10:39:00 Physician Attending Progress Note
Chief Complaint: resp failure, resolved
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   59M with septic arthritis, infected AICD s/p explant, course
   complicated by respiratory failure, extubated yesterday without
   problems.
   24 Hour Events:
   - mild delirium overnight
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle pain;
   Last dose of Antibiotics:
   Nafcillin - [**2106-2-21**] 08:20 AM
   Vancomycin - [**2106-2-21**] 08:21 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-2-21**] 12:00 AM
   Hydromorphone (Dilaudid) - [**2106-2-21**] 04:07 AM
   Famotidine (Pepcid) - [**2106-2-21**] 08:21 AM
   Other medications:
   insulin, vanc, thiamine, famotidine, dig, fent td, zetial, allopur,
   sqh,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain
   Musculoskeletal: Joint pain
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2106-2-21**] 10:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**07**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.6
C (99.6
   HR: 86 (70 - 96) bpm
   BP: 116/64(77) {102/44(56) - 124/82(86)} mmHg
   RR: 18 (12 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  5,024 mL
                                                                  1,970 mL
   PO:
                                                                  2,040 mL
                                                                  1,360 mL
   TF:
   IVF:
                                                                  2,204 mL
                                                                    610 mL
   Blood products:
   Total out:
                                                                  1,575 mL
                                                                    770 mL
   Urine:
                                                                  1,575 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,449 mL
                                                                  1,200 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: Standby
   Vt (Spontaneous): 783 (783 - 783) mL
   PS : 5 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.50/36/86/30/4
   Ve: 9.8 L/min
   PaO2 / FiO2: 86
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, ao x3
   Labs / Radiology
   9.6 g/dL
   280 K/uL
   88 mg/dL
   1.3 mg/dL
   30 mEq/L
   3.5 mEq/L
   20 mg/dL
   105 mEq/L
   141 mEq/L
   29.7 %
   9.6 K/uL
        [image002.jpg]
                             [**2106-2-19**]  04:29 AM
                             [**2106-2-19**]  04:48 AM
                             [**2106-2-19**]  06:32 PM
                             [**2106-2-19**]  06:58 PM
                             [**2106-2-20**]  02:43 AM
                             [**2106-2-20**]  02:48 AM
                             [**2106-2-20**]  09:08 AM
                             [**2106-2-20**]  04:15 PM
                             [**2106-2-20**]  04:28 PM
                             [**2106-2-21**]  03:59 AM
   WBC
   7.6
   6.8
   9.6
   Hct
   29.7
   26.7
   29.7
   Plt
   [**Telephone/Fax (3) 11272**]
   Cr
   1.6
   1.5
   1.5
   1.3
   1.3
   TCO2
   34
   35
   33
   34
   29
   Glucose
   153
   146
   100
   120
   88
   Other labs: PT / PTT / INR:14.4/27.8/1.3, CK / CKMB /
   Troponin-T:758/3/0.04, ALT / AST:53/57, Alk Phos / T Bili:225/2.6,
   Amylase / Lipase:/57, Differential-Neuts:55.0 %, Band:1.0 %, Lymph:32.0
   %, Mono:4.0 %, Eos:4.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL,
   LDH:269 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   59M with CAD, CHF, septic arthritis, infected AICD s/p explant, course
   complicated by respiratory failure, extubated yesterday without
   problems. Only active issue is management of chronic infections.
   Will discuss with ID further work-up, interventions, and treatments.
   Overall, will need to treat with vancomycin for 7 days and nafcillin
   for at least 6 weeks. Checking a vanco trough today.
      - will eventually need definitive treatment for infected hardware in
   the  knee.
   PICC line requested and will removed central line and a-line. PT
   consulted.
   ICU Care
   Nutrition: po diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2106-2-17**] 10:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition : Transfer to floor vs Rehab
   Total time spent: 35 minutes